US05114896
22.4 ml of toluene and 22.8 ml of a toluene solution of hexachloroethane (0.43 ml/l) were added to Solid B obtained as described above and stirred at room temperature for 15 minutes. Titanium tetrachloride was then added so as to give a titanium tetrachloride/toluene volume ratio of 3/2 and heated to 95° C., followed by stirring for 2 hours. The resulting solid material was washed 6 times respectively with 120 ml of n-hexane at 85° C. and further subjected to drying under reduced pressure for 1 hour to obtain 8.1 g of a catalytic component containing 2.8% of titanium.

reactant | hexachloroethane | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | Titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
reactant | toluene | 22.8 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 22.4 ml | C1(=CC=CC=C1)C | C7H8
product | titanium tetrachloride toluene | [Ti](Cl)(Cl)(Cl)Cl.C1(=CC=CC=C1)C | InChI=1S/C7H8.4ClH.Ti/c1-7-5-3-2-4-6-7;;;;;/h2-6H,1H3;4*1H;/q;;;;;+4/p-4
